US05039333
Preparation of Methyl 2 (4-Isopropyl-4-methyl-5-oxo-2-imidazolin 2-yl)-5-(4-methyl-6-oxo-1,3-dioxan-2-yl)nicotinate
A solution of methyl 5formyl-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)nicotinate (0.55 g, 0.0018 mol), 3-hydroxybutyric acid (0.28 g, 0 0027 mol) and a catalytic amount of para-toluenesulfonic acid in chloroform (25 mL) is heated at reflux temperature for 113 hours. During this time, water is removed by placement of an addition funnel containing 3 angstrom molecular sieves between the reaction flask and the reflux condensor. The reaction mixture is poured into aqueous saturated sodium bicarbonate and the layers are separated. The aqueous portion is extracted with additional methylene chloride and the combined organic extracts are dried over anhydrous magnesium sulfate and concentrated in vacuo to give a residue. The residue is purified by chromatography using silica gel and ethyl acetate in hexanes as eluant to yield the title compound (0.14 g, 20%) as a white solid, mp 65°-75° C., identified by IR and NMR spectral analyses.

reactant | methyl 5formyl-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)nicotinate | 0.0018 mol, 0.55 g | C(=O)C=1C=NC(=C(C(=O)OC)C1)C=1NC(C(N1)(C)C(C)C)=O | C15H17N3O4
reactant | 3-hydroxybutyric acid | 0.28 g | OC(CC(=O)O)C | C4H8O3
reactant | para-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | chloroform | 25 mL | C(Cl)(Cl)Cl | CHCl3
product | Methyl 2 (4-Isopropyl-4-methyl-5-oxo-2-imidazolin 2-yl)-5-(4-methyl-6-oxo-1,3-dioxan-2-yl)nicotinate | 0.14 g, 20% | C(C)(C)C1(N=C(NC1=O)C1=C(C(=O)OC)C=C(C=N1)C1OC(CC(O1)C)=O)C | C19H23N3O6
